US04957928
40.6 g (0.2 mol) of m-chloroperbenzoic acid are added, while stirring at from 15° to 20°, to a solution of 17.8 g (0.1 mol) of 2,2-dimethyl-6-fluoro-2H-chromene in 300 ml of trichloromethane. 17.1 g (0.15 mol) of trifluoroacetic acid are added rapidly to the resulting suspension at room temperature. The reaction mixture is then stirred at room temperature for 2 hours and then an aqueous solution of sodium sulfite/sodium hydrogen carbonate (1:1) is added thereto. The organic phase is separated off, washed in succession with water and saturated sodium chloride solution, dried over sodium sulfate and concentrated by evaporation in vacuo. The resulting residue is subjected to bulb tube distillation under a high vacuum at 160°. The distillate is dissolved in diethyl ether and the solution is washed in succession with sodium hydrogen carbonate solution and saturated sodium chloride solution, dried over sodium sulfate and again concentrated by evaporation in vacuo. The resulting oily residue is chromatographed on 500 g of silica gel (0.040- 0.063 mm) with toluene as eluant, yielding 7.76 g (40% of the theoretical yield) of 2,2-dimethyl-6-fluoro-3-oxo-chroman in the form of a light-yellow oil.

reactant | m-chloroperbenzoic acid | 0.2 mol, 40.6 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2,2-dimethyl-6-fluoro-2H-chromene | 0.1 mol, 17.8 g | CC1(OC2=CC=C(C=C2C=C1)F)C | C11H11FO
reactant | trifluoroacetic acid | 0.15 mol, 17.1 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium sulfite sodium hydrogen carbonate | S(=O)([O-])[O-].[Na+].[Na+].C(O)([O-])=O.[Na+]
solvent | trichloromethane | 300 ml | ClC(Cl)Cl | CHCl3
product | 2,2-dimethyl-6-fluoro-3-oxo-chroman | CC1(OC2=CC=C(C=C2CC1=O)F)C | C11H11FO2
